US06294573B1
3-methylene-3,4-dihydro-2H-1,5-benzodioxepine
A solution of catechol (4.4 g, 40 mmol), Cs2CO3 (27.7 g, 85 mmol) and 3-chloro-2 chloromethyl-prop-1-ene(5 g, 40 mmol) in DMF (80 mL) was striired overnight at rt. The reaction was partitioned between ether and water and the organic extract was washed with brine, dried (MgSO4), filtered and concentrated to 5.46 g (84%) of a yellow oil. MS 163 (M+H)+.

reactant | catechol | 40 mmol, 4.4 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | Cs2CO3 | 85 mmol, 27.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-2 chloromethyl-prop-1-ene | 40 mmol, 5 g | ClCC(=C)CCl | C4H6Cl2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 3-methylene-3,4-dihydro-2H-1,5-benzodioxepine | C=C1COC2=C(OC1)C=CC=C2 | C10H10O2
